US07179823B1
A mixture of ethyl 3-[3-ethoxy-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate (600 mg), 2-chloromethyl-1-methyl-1H-benzimidazole (360 mg), potassium carbonate (550 mg) and N,N-dimethylformamide (10 ml) was stirred at 80° C. for 5 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-[3-ethoxy-1-[4-(1-methyl-1H-benzimidazol-2-ylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate (730 mg, yield: 84%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | ethyl 3-[3-ethoxy-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate | 600 mg | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)O | C17H22N2O4
reactant | 2-chloromethyl-1-methyl-1H-benzimidazole | 360 mg | ClCC1=NC2=C(N1C)C=CC=C2 | C9H9ClN2
reactant | potassium carbonate | 550 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-[3-ethoxy-1-[4-(1-methyl-1H-benzimidazol-2-ylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate | 730 mg, yield: 84% | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC1=NC2=C(N1C)C=CC=C2 | C26H30N4O4
